US08748634B2
4-Trifluoromethylbenzoyl chloride (200 grams), 1,2-dimethoxybenzene (128 mL), and dichloromethane (1800 mL) were combined in a reaction flask under a nitrogen atmosphere. Tin (IV) chloride (168 mL) was added to the reaction mixture slowly drop-wise over 45 minutes. The reaction mixture was heated to reflux for 11 hours. It was subsequently cooled to room temperature and slowly poured into a mixture of 200 mL of hydrochloric acid and 1800 mL of ice water. The layers were phase separated. The organic layer was washed with 4 portions of water (1 L each) and then with 1.5 L of 20% saturated aqueous sodium hydroxide (w/v). The organic layer was dried over anhydrous sodium sulfate and then concentrated by rotary evaporation. The residue was recrystallized in 1 L of 15% ethyl acetate/85% hexanes. The crystalline solid was collected by vacuum filtration yielding 132 grams of 3,4-dimethoxy-4′-trifluoromethylbenzophenone. This material was not purified further but was used directly in the next step.

reactant | 4-Trifluoromethylbenzoyl chloride | 200 grams | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | 1,2-dimethoxybenzene | 128 mL | COC1=C(C=CC=C1)OC | C8H10O2
reactant | Tin (IV) chloride | 168 mL | [Sn](Cl)(Cl)(Cl)Cl
reactant | hydrochloric acid | 200 mL | Cl | ClH
solvent | dichloromethane | 1800 mL | ClCCl | CH2Cl2
product | 3,4-dimethoxy-4′-trifluoromethylbenzophenone | 132 grams | COC=1C=C(C(=O)C2=CC=C(C=C2)C(F)(F)F)C=CC1OC | C16H13F3O3
